US04005217
A suspension of N-(2-aminophenyl)-2-dimethylaminoacetamide (4.8 g) in dry acetonitrile (20 ml) was stirred vigorously during the dropwise addition of methoxycarbonyl isothiocyanate (3.5 g), the temperature being maintained between 15° C. and 20° C. by external cooling, and afterwards for a further 5 minutes. The mixture was then diluted with diethyl ether (500 ml) and treated with an excess of a saturated solution of hydrogen chloride in diethyl ether. The precipitate was filtered off, dissolved in the minimum quantity of water, and treated with an excess of a 2N aqueous solution of sodium hydroxide. The precipitate was filtered off and recrystallised twice from benzene to give 1-methoxycarbonyl-3-(2-dimethylaminoacetamidophenyl)thiourea (3.5 g), m.p. 130°-131° C. (with decomposition).

reactant | N-(2-aminophenyl)-2-dimethylaminoacetamide | 4.8 g | NC1=C(C=CC=C1)NC(CN(C)C)=O | C10H15N3O
reactant | methoxycarbonyl isothiocyanate | 3.5 g | COC(=O)N=C=S | C3H3NO2S
reactant | hydrogen chloride | Cl | ClH
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
product | 1-methoxycarbonyl-3-(2-dimethylaminoacetamidophenyl)thiourea | 3.5 g | COC(=O)NC(=S)NC1=C(C=CC=C1)NC(CN(C)C)=O | C13H18N4O3S
